* FAN_KEY (субсхема из нетлиста KiCad)
.subckt FAN_KEY FAN_GATE_EXT FAN_LOAD_LO FAN_PWM_OUT GND MOTOR_TERM VBAT_FAN
  C_GATE FAN_GATE_EXT GND 1n
  C_OUT MOTOR_TERM GND 100n
  D6 FAN_LOAD_LO VBAT_FAN MyD
  L_OUT FAN_LOAD_LO MOTOR_TERM 2u
  XQ5 FAN_LOAD_LO FAN_GATE_EXT GND HYG012N03
  R31 FAN_PWM_OUT FAN_GATE_EXT 100
.ends FAN_KEY
